US07932272B2
4-(Furan-2-ylmethoxy)-benzylamine
Next, to a solution of lithium aluminum hydride (50 mg, 1.33 mmol) in tetrahydrofuran (1.0 mL) was added a solution of the resulting 4-furan-2-ylmethoxy)-benzonitrile (106 mg, 0.532 mmol) in tetrahydrofuran (1 mL) on an ice bath, and the solution was stirred at room temperature for 4 hours. A mixture solvent of methanol and water (9:1) was added to the reaction solution, an aqueous solution of saturated ammonium chloride was further added, the solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, then, the solvent was evaporated to obtain the title compound (76 mg, 70%) as a yellow solid.

reactant | lithium aluminum hydride | 1.33 mmol, 50 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | benzonitrile | 0.532 mmol, 106 mg | C(C1=CC=CC=C1)#N | C7H5N
reactant | methanol | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(Furan-2-ylmethoxy)-benzylamine | 76 mg, 70% | O1C(=CC=C1)COC1=CC=C(CN)C=C1 | C12H13NO2
